US05004780
A mixed solution consisting of 20.7 g of dimethyl sulfoxide and 1.6 g of p-toluenesulfonic acid was kept at 20° C., to which was added dropwise another mixed solution consisting of 37.3 g of 3,3,5-trimethyl-cylcohexanone-dimethylacetal and 23.8 g of 1,1-dimethylbutyl hydroperoxide. The resulting solution had an acid concentration of 0.1 mol/kg of the solution. The solution was treated in the same manner as described in Example 1 to obtain 50.3 g (yield: 68%) of crude 1-methoxy-1-(1,1-dimethylbutylperoxy)-3,3,5-trimethylcyclohexane having a purity of 75%. The resulting crude peroxyketal was distilled at 68°-72° C. under a vacuum of 0.005 mmHg to obtain a purified peroxyketal having a purity of 96%.

reactant | 3,3,5-trimethyl-cylcohexanone-dimethylacetal | 37.3 g | COC1(CC(CC(C1)C)(C)C)OC | C11H22O2
reactant | 1,1-dimethylbutyl hydroperoxide | 23.8 g | CC(CCC)(C)OO | C6H14O2
catalyst | p-toluenesulfonic acid | 1.6 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | dimethyl sulfoxide | 20.7 g | CS(=O)C | C2H6OS
product | 1-methoxy-1-(1,1-dimethylbutylperoxy)-3,3,5-trimethylcyclohexane | 50.3 g, yield: 68% | COC1(CC(CC(C1)C)(C)C)OOC(CCC)(C)C | C16H32O3
